US08067408B2
1,1-Dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate
To a solution of 1,1-dimethylethyl 4-[(3-bromophenyl)methyl]-1-piperidinecarboxylate (191 mg, 0.539 mmol) in DMF (1 mL) was added PdCl2(dppf) (15.78 mg, 0.022 mmol), bis(pinacolato)diboron (144 mg, 0.566 mmol), and potassium acetate (106 mg, 1.078 mmol). This mixture was placed in a microwave at 100° C. for 1 h. The reaction mixture was diluted with EtOAc (10 mL), washed with H2O (3×3 mL), brine (3 mL) and the EtOAC dried over Na2SO4. The mixture was filtered, concentrated and purified by CombiFlash chromatograph to afford 0.162 g (74%) of the title compound. LC-MS m/z 402 (M+H)+.

reactant | 1,1-dimethylethyl 4-[(3-bromophenyl)methyl]-1-piperidinecarboxylate | 0.539 mmol, 191 mg | BrC=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C17H24BrNO2
reactant | bis(pinacolato)diboron | 0.566 mmol, 144 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.078 mmol, 106 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.022 mmol, 15.78 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1-Dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate | 0.162 g, 74% | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)C | C23H36BNO4
